*********************************************************
*       HIGH-SPEED (HCT)DIGITAL LIBRARY BASED ON THE    *
*	         TEXAS INSTRUMENTS DATA BOOK		        *	
*									                    *
*DEVELOPPED FOR INTUSOFT BY JEAN-CLAUDE MBOLI	    	*
*Phone:(33) 4 76 44 43 30	    Fax:(33) 4 76 44 43 52  * 
*e-mail:101736.631@compuserve.com				        *
*									                    *
*				September 1996			                *
*				  					                    *
*********************************************************
**********************
*SRC=54HCT00;54HCT00;CMOS;54HCTxx;2 input NAND gate
*SYM=NAND2
*54HCT00 QUADRUPLE 2-INPUT POSITIVE-NAND GATES
***
.subckt 54hct00 in1 in2 out
*FAMILY TTLin TTLin TTLout
*pinout SOT27 1 2 3;4 5 6;9 10 8;12 13 11:VCC=14 GND=7
*pinout SO14 1 2 3;4 5 6;9 10 8;12 13 11:VCC=14 GND=7
*pinout SOT108A 1 2 3;4 5 6;9 10 8;12 13 11:VCC=14 GND=7

anand [in1 in2] out ls_nand 
.model ls_nand d_nand(rise_delay=17n fall_delay=17n)
.ends
*
*
**********************
*SRC=54HCT02;54HCT02;CMOS;54HCTxx;2 input NOR gate
*SYM=NOR2
*54HCT02 QUADRUPLE 2-INPUT POSITIVE-NOR GATES
***
.subckt 54hct02 in1 in2 out
*FAMILY TTLin TTLin TTLout
*pinout SOT27 2 3 1;5 6 4;8 9 10;11 12 13:VCC=14 GND=7
*pinout SO14 2 3 1;5 6 4;8 9 10;11 12 13:VCC=14 GND=7
*pinout SOT108A 2 3 1;5 6 4;8 9 10;11 12 13:VCC=14 GND=7

anor [in1 in2] out ls_nor 
.model ls_nor d_nor(rise_delay=17n fall_delay=17n)
.ends
*
*
**********************
*SRC=54HCT04;54HCT04;CMOS;54HCTxx;inverter
*SYM=INV
*54HCT04 HEX INVERTERS
***
.subckt 54hct04 in out
*FAMILY TTLin TTLout
*pinout SOT27 1 2;3 4;5 6;9 8;11 10;13 12:VCC=14 GND=7
*pinout SO14 1 2;3 4;5 6;9 8;11 10;13 12:VCC=14 GND=7
*pinout SOT108A 1 2;3 4;5 6;9 8;11 10;13 12:VCC=14 GND=7

ainv in out ls_inv 
.model ls_inv d_inverter(rise_delay=17n fall_delay=17n)
.ends
*
***********************
*SRC=54HCT08;54HCT08;CMOS;54HCTxx;2 input AND gate
*SYM=AND2
*54HCT08 QUADRUPLE 2-INPUT POSITIVE-AND GATES
***
.subckt 54hct08 in1 in2 out
*FAMILY TTLin TTLin TTLout
*pinout SOT27 1 2 3;4 5 6;9 10 8;12 13 11:VCC=14 GND=7
*pinout SO14 1 2 3;4 5 6;9 10 8;12 13 11:VCC=14 GND=7
*pinout SOT108A 1 2 3;4 5 6;9 10 8;12 13 11:VCC=14 GND=7

aand [in1 in2] out ls_and 
.model ls_and d_and(rise_delay=20n fall_delay=20n)
.ends
*
*
**********************
*SRC=54HCT14;54HCT14;CMOS;54HCTxx;inverter Schmitt
*SYM=T7414
*54HCT14 HEX SCHMITT-TRIGGER INVERTERS
*CAUTION: input is analog while output is digital
***
.subckt 54HCT14 in out
*FAMILY TTLin TTLout
*pinout SOT27 1 2;3 4;5 6;9 8;11 10;13 12:VCC=14 GND=7
*pinout SO14 1 2;3 4;5 6;9 8;11 10;13 12:VCC=14 GND=7
*pinout SOT108A 1 2;3 4;5 6;9 8;11 10;13 12:VCC=14 GND=7

ainv a out ls_inv
aadc  [in] [a] ls_adc

.model ls_inv d_inverter(rise_delay=28n fall_delay=28n)
.model ls_adc adc_bridge(in_low=1.65 in_high=0.92)
.ends
*
*
**********************
*SRC=54HCT32;54HCT32;CMOS;54HCTxx;2 input OR gate
*SYM=OR2
*54HCT32 QUADRUPLE 2-INPUT POSITIVE-OR GATES
***
.subckt 54hct32 in1 in2 out
*FAMILY TTLin TTLin TTLout
*pinout SOT27 1 2 3;4 5 6;9 10 8;12 13 11:VCC=14 GND=7
*pinout SO14 1 2 3;4 5 6;9 10 8;12 13 11:VCC=14 GND=7
*pinout SOT108A 1 2 3;4 5 6;9 10 8;12 13 11:VCC=14 GND=7

aor [in1 in2] out ls_or 
.model ls_or d_or(rise_delay=20n fall_delay=20n)
.ends
*
*
**********************
*SRC=54HCT74;54HCT74;CMOS;54HCTxx;D Flip-Flop
*SYM=T7474
*54HCT74 DUAL D-TYPE POSITIVE-EDGE-TRIGGERED 
*FLIP-FLOPS WITH PRESET & CLEAR 
***
.subckt 54hct74 clrbar d clk prebar q qbar
*FAMILY  TTLin TTLin TTLin TTLin TTLout TTLout
*pinout SOT27 1 2 3 4 5 6;13 12 11 10 9 8:VCC=14 GND=7
*pinout SO14 1 2 3 4 5 6;13 12 11 10 9 8:VCC=14 GND=7
*pinout SOT108A 1 2 3 4 5 6;13 12 11 10 9 8:VCC=14 GND=7

adff d clk prebar clrbar q qbar ls_dff

.model ls_dff d_dff(nset_delay=6n nreset_delay=6n
+ rise_delay=24n fall_delay=24n ic=1)
.ends
*
*
**********************
*SRC=54HCT125;54HCT125;CMOS;54HCTxx;Bus buffer
*SYM=T74125
*54HCT125 QUADRUPLE BUS BUFFER WITH 3-STATE OUTPUTS 
***
.subckt 54hct125 a gbar y
*FAMILY TTLin TTLin TTLout
*pinout SOT27 2 1 3;5 4 6;9 10 8;12 13 11:VCC=14 GND=7
*pinout SO14 2 1 3;5 4 6;9 10 8;12 13 11:VCC=14 GND=7
*pinout SOT108A 2 1 3;5 4 6;9 10 8;12 13 11:VCC=14 GND=7

atri a g y ls_tri
ainv gbar g ls_inv

.model ls_tri d_tristate(delay=2n)
.model ls_inv d_inverter(rise_delay=32n fall_delay=32n)
.ends
*
*
**********************
*SRC=54HCT138;54HCT138;CMOS;54HCTxx;3-to-8 Decoders
*SYM=T74138
*54HCT138 3-LINE TO 8-LINE DECODERS/DEMULTIPLEXERS
***
.subckt 54HCT138 a b c g1 g2ab g2bb y0 y1 y2 y3
+ y4 y5 y6 y7
*FAMILY TTLin TTLin TTLin TTLin TTLin TTLout TTLout TTLout
+ TTLout TTLout TTLout TTLout TTLout
*pinout SOT38Z 1 2 3 6 4 5 15 14 13 12 11 10 9 7:VCC=16 GND=8
*pinout SO16 1 2 3 6 4 5 15 14 13 12 11 10 9 7:VCC=16 GND=8
*pinout SOT109A 1 2 3 6 4 5 15 14 13 12 11 10 9 7:VCC=16 GND=8

ainv1 a ab inv
ainv2 b bb inv
ainv3 c cb inv
ainv4 g1 g1b inv

anor [g2ab g2bb g1b] en nor

anand0 [ab bb cb en] iy0 nand
anand1 [a bb cb en] iy1 nand
anand2 [ab b cb en] iy2 nand
anand3 [a b cb en] iy3 nand
anand4 [ab bb c en] iy4 nand
anand5 [a bb c en] iy5 nand
anand6 [ab b c en] iy6 nand
anand7 [a b c en] iy7 nand

abuf0 iy0 y0 buf
abuf1 iy1 y1 buf
abuf2 iy2 y2 buf
abuf3 iy3 y3 buf
abuf4 iy4 y4 buf
abuf5 iy5 y5 buf
abuf6 iy6 y6 buf
abuf7 iy7 y7 buf

.model inv d_inverter
.model buf d_buffer
.model nor d_nor(rise_delay=28.5n fall_delay=28.5n)
.model nand d_nand(rise_delay=31n fall_delay=31n)

.ends
*
*
**********************
*SRC=54HCT139;54HCT139;CMOS;54HCTxx;2-to-4 Decoders
*SYM=T74139
*54HCT139 DUAL 2-LINE TO 4-LINE DECODERS/DEMULTIPLEXERS
***
.subckt 54HCT139 a b gb y0 y1 y2 y3
*FAMILY TTLin TTLin TTLin TTLout TTLout TTLout TTLout
*pinout SOT38Z 2 3 1 4 5 6 7;14 13 15 12 11 10 9:VCC=16 GND=8
*pinout SO16 2 3 1 4 5 6 7;14 13 15 12 11 10 9:VCC=16 GND=8
*pinout SOT109A 2 3 1 4 5 6 7;14 13 15 12 11 10 9:VCC=16 GND=8

ainv1 a ab inv
ainv2 b bb inv
ainv3 gb en invmod

anand0 [ab bb en] iy0 nand
anand1 [a bb en] iy1 nand
anand2 [ab b en] iy2 nand
anand3 [a b en] iy3 nand

abuf0 iy0 y0 buf
abuf1 iy1 y1 buf
abuf2 iy2 y2 buf
abuf3 iy3 y3 buf

.model inv d_inverter
.model buf d_buffer
.model invmod d_inverter(rise_delay=30n fall_delay=30n)
.model nand d_nand(rise_delay=30n fall_delay=30n)

.ends
*
*
**********************
*SRC=54HCT157;54HCT157;CMOS;54HCTxx;Multiplexer
*SYM=T74157
*54HCT157 QUADRUPLE 2-LINE TO 1-LINE DATA
*SELECTORS/MULTIPLEXERS 
***
.subckt 54hct157 strb selectab 1a 1b 1y
+ 2a 2b 2y 3a 3b 3y 4a 4b 4y
*FAMILY TTLin TTLin TTLin TTLin TTLout TTLin TTLin
+ TTLout TTLin TTLin TTLout TTLin TTLin TTLout
*pinout SOT38Z 15 1 2 3 4 5 6 7 11 10 9 14 13 12:VCC=16 GND=8
*pinout SO16 15 1 2 3 4 5 6 7 11 10 9 14 13 12:VCC=16 GND=8
*pinout SOT109A 15 1 2 3 4 5 6 7 11 10 9 14 13 12:VCC=16 GND=8

abuf1 strb gb buf1
abuf2 selectab abb buf2
ainv1 gb g inv
ainv2 abb s inv

aand1 [1a s g] a1 and
aand2 [1b abb g] a2 and
aora [a1 a2] 1y ls_or

aand3 [2a s g] b1 and
aand4 [2b abb g] b2 and
aorb [b1 b2] 2y ls_or

aand5 [3a s g] c1 and
aand6 [3b abb g] c2 and
aorc [c1 c2] 3y ls_or

aand7 [4a s g] d1 and
aand8 [4b abb g] d2 and
aord [d1 d2] 4y ls_or

.model inv d_inverter
.model buf1 d_buffer
.model buf2 d_buffer
.model and d_and
.model ls_or d_or(rise_delay=24n fall_delay=24n)
.ends
*
*
**********************
*SRC=54HCT273;54HCT273;CMOS;54HCTxx;D-type Flip-Flop
*SYM=T74273
*54HCT273 OCTAL D-TYPE FLIP-FLOP WITH CLEAR
***
.subckt 54hct273 clrb clk d1 d2 d3 d4 d5
+ d6 d7 d8 q1 q2 q3 q4 q5 q6 q7 q8
*FAMILY TTLin TTLin TTLin TTLin TTLin TTLin
+ TTLin TTLin TTLin TTLin TTLout TTLout TTLout
+ TTLout TTLout TTLout TTLout TTLout
*pinout SOT146 1 11 3 4 7 8 13 14 17 18 2 5 6 9 12 15 16 19:VCC=20 GND=10
*pinout SO20 1 11 3 4 7 8 13 14 17 18 2 5 6 9 12 15 16 19:VCC=20 GND=10
*pinout SOT163A 1 11 3 4 7 8 13 14 17 18 2 5 6 9 12 15 16 19:VCC=20 GND=10

ah h high
.model high d_pullup

adff1 d1 clk h clrb q1 q1b ls_dff
adff2 d2 clk h clrb q2 q2b ls_dff
adff3 d3 clk h clrb q3 q3b ls_dff
adff4 d4 clk h clrb q4 q4b ls_dff
adff5 d5 clk h clrb q5 q5b ls_dff
adff6 d6 clk h clrb q6 q6b ls_dff
adff7 d7 clk h clrb q7 q7b ls_dff
adff8 d8 clk h clrb q8 q8b ls_dff

.model inv d_inverter
.model ls_dff d_dff(rise_delay=28n fall_delay=28n)

.ends
*
**************
